US09108936B2
To a solution of 2,4-dichloro-6-methyl-benzonitrile (5.0 g, 26.9 mmol) in DMF (50 ml) in a sealed tube are added tripotassium phosphate (5.7 g, 26.9 mmol) and L-proline (0.62 g, 5.37 mmol) at RT. The reaction mixture is degassed and flushed with argon for 30 min and then are added CuI (0.51 g, 2.68 mmol) and ethanethiol (6.0 ml, 80.6 mmol) at RT. The reaction mixture is stirred at 80° C. for 16 h. After completion of the reaction (monitored by TLC), the reaction mixture is diluted with water (50 ml) and extracted with ethyl acetate (50×3 ml). The organic layer is washed with water (50 ml), brine (15 ml) dried over anhydrous sodium sulfate and evaporated to get the crude which is purified by column chromatography (silica gel, 5% acetone/hexane) to yield 4-chloro-2-ethylsulfanyl-6-methyl-benzonitrile (1.3 g, 6.14 mmol, 23%).

reactant | 2,4-dichloro-6-methyl-benzonitrile | 26.9 mmol, 5.0 g | ClC1=C(C#N)C(=CC(=C1)Cl)C | C8H5Cl2N
reactant | tripotassium phosphate | 26.9 mmol, 5.7 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | L-proline | 5.37 mmol, 0.62 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | ethanethiol | 80.6 mmol, 6.0 ml | C(C)S | C2H6S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
catalyst | CuI | 2.68 mmol, 0.51 g | [Cu]I
product | 4-chloro-2-ethylsulfanyl-6-methyl-benzonitrile | 6.14 mmol, 1.3 g, 23% | ClC1=CC(=C(C#N)C(=C1)C)SCC | C10H10ClNS
